US07381728B2
Step 1: N-(5-Bromo-2-fluorophenyl)acetamide
5-Bromo-2-fluoroaniline (14.79 g, 78 mmol) was heated at reflux in acetic acid (50 ml) and acetic anhydride (50 ml) for 8 hours. The solution was concentrated in vacuo, azeotroping with toluene. The residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic phase was washed with water (×3), brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel (gradient of hexane to ethyl acetate) to afford the title compound. MS (ES+) m/e 232/234 [M+H]+.

reactant | 5-Bromo-2-fluoroaniline | 78 mmol, 14.79 g | BrC=1C=CC(=C(N)C1)F | C6H5BrFN
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-(5-Bromo-2-fluorophenyl)acetamide | BrC=1C=CC(=C(C1)NC(C)=O)F | C8H7BrFNO
